US09303020B2
Preparation of 2-methoxy-4-methyl-N-(1-(pyrimidin-2-yl)cyclopropyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide.
To a mixture of 5-iodo-2-methoxy-4-methyl-N-(1-(pyrimidin-2-yl)cyclo-propyl)benzamide (1.6 g, 3.91 mmol) in dioxane (10 ml) in a 50 ml RB flask was added bis(pinacolato)diboron (1.191 g, 4.69 mmol) and potassium acetate (1.151 g, 11.73 mmol). The mixture was degassed for 10 min, added PdCl2(dppf) (0.286 g, 0.391 mmol) and degassed again for 10 minutes. The reaction mixture was then heated at 100° C. overnight. The solvent was removed and the residue filtered through a Celite bed with washing using ethyl acetate. The ethyl acetate solution was then washed with water, dried over Na2SO4, filtered and concentrated. The crude product was purified by preparative-HPLC. LCMS: (ES+) m/z=(M+H)+; Column. PUROSPHER@star RP-18 (4×55) mm, 3 μm; Buffer: 20 mMNH4OAC IN WATER; Mphase A: Buffer+MeCN (90+10); Mphase B: Buffer+MeCN (10+90); Flow: 2.5 ml/min; Time (min.): 0 2 2.5 3; % B: 0 100 100 0; RT: 1.90 min.

reactant | 5-iodo-2-methoxy-4-methyl-N-(1-(pyrimidin-2-yl)cyclo-propyl)benzamide | 3.91 mmol, 1.6 g | IC=1C(=CC(=C(C(=O)NC2(CC2)C2=NC=CC=N2)C1)OC)C | C16H16IN3O2
reactant | bis(pinacolato)diboron | 4.69 mmol, 1.191 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 11.73 mmol, 1.151 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.391 mmol, 0.286 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-methoxy-4-methyl-N-(1-(pyrimidin-2-yl)cyclopropyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | COC1=C(C(=O)NC2(CC2)C2=NC=CC=N2)C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C | C22H28BN3O4
